US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic Acid (3-pyrrolidin-1-ylpropyl) amide
5-(5-bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic acid (127 mg, 0.28 mmol) was condensed with 3-pyrrolidin-1-yl-propylamine (43 mg, 0.336 mmol) to give 140 mg (66%) of the title compound.

reactant | 5-(5-bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic acid | 0.28 mmol, 127 mg | BrC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C(=C(N1)C(C)C)C(=O)O)C1=CC=CC=C1 | C23H19BrN2O3
reactant | 3-pyrrolidin-1-yl-propylamine | 0.336 mmol, 43 mg | N1(CCCC1)CCCN | C7H16N2
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic Acid (3-pyrrolidin-1-ylpropyl) amide | 140 mg, 66% | N1(CCCC1)CCCNC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=C1C(NC2=CC=C(C=C12)Br)=O)C(C)C | C30H33BrN4O2
